US06403561B1
Preparation of Methyl 5-chloroindole-2-carboxylate
5-Chloroindole-2-carboxylic acid (0.95 g, 4.65 mmol) was dissolved in methanol (35 ml) and treated with sulphuric acid (0.5 ml). The mixture was refluxed for 5 h and cooled and the solvent was removed. The residue was recrystallized twice from methanol to give the product.

reactant | 5-Chloroindole-2-carboxylic acid | 4.65 mmol, 0.95 g | ClC=1C=C2C=C(NC2=CC1)C(=O)O | C9H6ClNO2
reactant | sulphuric acid | 0.5 ml | S(O)(O)(=O)=O | H2O4S
reactant | methanol | 35 ml | CO | CH4O
product | Methyl 5-chloroindole-2-carboxylate | ClC=1C=C2C=C(NC2=CC1)C(=O)OC | C10H8ClNO2
